US09403810B2
Step 6: 4-Amino-2-cyclobutyl-1,5-dimethyl-1H-pyrazol-3(2H)-one
To a solution of tert-butyl (2-cyclobutyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)carbamate in DCM (5 mL) was added sulfuric acid (0.034 mL, 0.634 mmol). The reaction mixture was stirred at room temperature overnight. Further sulfuric acid (0.068 mL, 1.268 mmol) was added to the reaction mixture and it was stirred for 2 hours. The resulting mixture was diluted with DCM and water and the layers separated. The aqueous layer was made basic by the dropwise addition of 2M NaOH (aq). The aqueous layer was extracted with DCM (×3) and the combined organic extracts were passed through a phase separating cartridge. The eluent was concentrated under reduced pressure to afford the title compound;

reactant | tert-butyl (2-cyclobutyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)carbamate | C1(CCC1)N1N(C(=C(C1=O)NC(OC(C)(C)C)=O)C)C | C14H23N3O3
reactant | sulfuric acid | 0.634 mmol, 0.034 mL | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 1.268 mmol, 0.068 mL | S(O)(O)(=O)=O | H2O4S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-Amino-2-cyclobutyl-1,5-dimethyl-1H-pyrazol-3(2H)-one | NC=1C(N(N(C1C)C)C1CCC1)=O | C9H15N3O
